US08227492B2
Step 2: Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-(diethylamino)ethyl)sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-[2-bromo-ethyl]sulfoximide (150 mg, 0.00026 mol) in DMF(0.7 mL) was added diethyl amine (1 mL) at 25° C. Reaction mixture was stirred at same temperature for 2 hr. Reaction mixture was diluted with water and filtered. Drying afforded 85 mg of titled compound in 60% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-[2-bromo-ethyl]sulfoximide | 0.00026 mol, 150 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NCCBr)C | C22H19BrCl2N4O3S
reactant | diethyl amine | 1 mL | C(C)NCC | C4H11N
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-(diethylamino)ethyl)sulfoximide | 85 mg, 60% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NCCN(CC)CC)C | C26H29Cl2N5O3S
